US07834051B2
rac-2-chloro-4-[(4R,5R)-4-hydroxy-3,3,5-trimethyl-2-oxopyrrolidin-1-yl]-3-methylbenzonitrile
Using 2-chloro-3-methyl-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile (23 mg) and lithium tri(sec-butyl)borohydride-THF solution (0.119 mL, 1 mol/L), and in the same manner as in Example 5, the title compound was obtained as a colorless solid (yield: 15 mg, 66%).

reactant | 2-chloro-3-methyl-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile | 23 mg | ClC1=C(C#N)C=CC(=C1C)N1C(C(C(C1C)=O)(C)C)=O | C15H15ClN2O2
reactant | lithium tri(sec-butyl)borohydride THF | 1 mol/L, 0.119 mL | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+].C1CCOC1
product | rac-2-chloro-4-[(4R,5R)-4-hydroxy-3,3,5-trimethyl-2-oxopyrrolidin-1-yl]-3-methylbenzonitrile | ClC1=C(C#N)C=CC(=C1C)N1C(C([C@H]([C@H]1C)O)(C)C)=O | C15H17ClN2O2
